US09260408B2
[A] 2,2-Dimethyl-N-[5-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yl]-propionamide
A microwave vial was charged with N-(5-bromopyridin-3-yl)pivalamide (0.2 g, 0.778 mmol), 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1) (0.246 g, 0.856 mmol) and DMF (4 mL). The reaction mixture was purged with Argon; then, bis(triphenylphosphine)palladium(II)chloride (0.055 g, 0.078 mmol), followed by 1N aqueous Na2CO3 solution (2.33 mL, 2.33 mmol) were added and the reaction was heated in the microwave at 120° C. for 5 min. The reaction mixture was diluted with EtOAc, filtered through Dicalite and washed with EtOAc (2×20 mL). The resulting filtrate was washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 5% MeOH-DCM gradient to give the title compound (0.195 g, 74%) as a white solid. MS: 338.2 (M+H+).

reactant | N-(5-bromopyridin-3-yl)pivalamide | 0.778 mmol, 0.2 g | BrC=1C=C(C=NC1)NC(C(C)(C)C)=O | C10H13BrN2O
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 0.856 mmol, 0.246 g | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | Na2CO3 | 2.33 mmol, 1N, 2.33 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.078 mmol, 0.055 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2,2-Dimethyl-N-[5-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yl]-propionamide | 0.195 g, 74% | CC(C(=O)NC=1C=NC=C(C1)C=1C=C2CCC(N(C2=CC1)C)=O)(C)C | C20H23N3O2
